US07514439B2
5-Methoxy[1,3]thiazolo[5,4-b]pyridin-2-amine (5.0 g, 27.6 mmol) was dissolved in 30% hydrogen bromide in acetic acid (50 ml). The mixture was stirred at 130° C. for 3 hours and cooled to room temperature, and then the solvents were removed in vacuo and the residue was solidified with diethyl ether to give 2-amino[1,3]thiazolo[5,4-b]pyridin-5-ol dihydrobromide (9.11 g, quantitatively) as colorless crystals.

reactant | 5-Methoxy[1,3]thiazolo[5,4-b]pyridin-2-amine | 27.6 mmol, 5.0 g | COC1=CC=C2C(=N1)SC(=N2)N | C7H7N3OS
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-amino[1,3]thiazolo[5,4-b]pyridin-5-ol dihydrobromide | Br.Br.NC=1SC2=NC(=CC=C2N1)O | InChI=1S/C6H5N3OS.2BrH/c7-6-8-3-1-2-4(10)9-5(3)11-6;;/h1-2H,(H2,7,8)(H,9,10);2*1H
